US05266728
To a mixture of 10.1 g (58.5 mmol) of cyclohexyl (s)-(-)-lactate, 8.1 g (80.4 mmol) of triethylamine and ml of methylene chloride, 5.7 ml (70.2 mmol) of acryloyl chloride was added dropwise at a temperature of -20° C., and the mixture was stirred at -20° C. for 5.5 hours. On ice cooling, 1N hydrochloric acid was added to the reaction mixture to separate an organic layer, and an aqueous layer was extracted with methylene chloride. Organic layers were combined and washed with successive, saturated sodium bicarbonate solution, water, and saturated sodium chloride solution. The solution was dried over anhydrous magnesium sulfate and filtered, the solvent was distilled off, and 13.5 g of crude (S)-cyclohexyl 2-propenoyloxypropionate was obtained.

reactant | cyclohexyl (s)-(-)-lactate | 58.5 mmol, 10.1 g | C([C@@H](O)C)(=O)OC1CCCCC1 | C9H16O3
reactant | triethylamine | 80.4 mmol, 8.1 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | ml | C(Cl)Cl | CH2Cl2
reactant | acryloyl chloride | 70.2 mmol, 5.7 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | hydrochloric acid | 1N | Cl | ClH
product | (S)-cyclohexyl 2-propenoyloxypropionate | 13.5 g | C(C=C)(=O)O[C@H](C(=O)OC1CCCCC1)C | C12H18O4
